US06388084B1
A N-[(1,1-dimethylethoxyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester (253 mg, 0.54 mmol) was treated with 4 N HCl solution in dioxane (4.0 mL) at room temperature. The solution was stirred for 2 h as a white solid was formed. The mixture was concentrated and the residue was dissolved in methanol. After removal of methanol, the residue was dried under high vacuum to obtain 221 mg (100% yield) of 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt as an amorphous white solid. ES-LRMS m/z 369.3 (M+H), 410.3 (M+CH3CN).

reactant | N-[(1,1-dimethylethoxyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 0.54 mmol, 253 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O | C23H27F3N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt | 221 mg, 100% yield | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O | InChI=1S/C18H19F3N2O3.ClH/c1-10-8-14(18(19,20)21)23(2)16(24)15(10)12-6-4-11(5-7-12)9-13(22)17(25)26-3;/h4-8,13H,9,22H2,1-3H3;1H/t13-;/m0./s1
